US08372864B2
Added to a solution of 150 mg of 7-(2-oxazolyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid in 4 cm3 of anhydrous dimethylformamide and under an argon atmosphere are 0.19 cm3 of triethylamine and 201 mg of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride then 69 mg of 1-hydroxy-7-azabenzotriazole and 97 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The solution is kept stirring for 15 h at a temperature close to 20° C. 50 cm3 of water and 50 cm3 of ethyl acetate are added to the reaction medium. After decanting, the organic phase is washed with 50 cm3 of a saturated aqueous solution of ammonium chloride, two lots of 20 cm3 of water and 20 cm3 of a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (5 kPa). The residual solution (around 3 cm3) is filtered through a pellet of 15 g of 40-63 μm silica. The silica pellet is washed with 40 cm3 of ethyl acetate. The filtrate is concentrated to dryness under reduced pressure (5 kPa). 255 mg is obtained of a white powder which is dissolved in 10 cm3 of ethyl ether. Added thereto, while stirring, is 0.2 cm3 of a 4N solution of hydrochloric acid in dioxane at a temperature of 20° C. The reaction mixture precipitates. The precipitate is filtered, washed with two lots of 5 cm3 of isopropyl ether and dried under vacuum at a temperature of 35° C. 236 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-oxazolyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride are obtained in the form of white crystals.

reactant | 7-(2-oxazolyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 150 mg | O1C(=NC=C1)C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O | C20H24N2O4
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride | 201 mg | Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
reactant | 1-hydroxy-7-azabenzotriazole | 69 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 97 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 4 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl ether | 10 cm3 | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 50 cm3 | O | H2O
solvent | triethylamine | 0.19 cm3 | C(C)N(CC)CC | C6H15N
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-oxazolyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 236 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C=2OC=CN2)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C40H43F5N4O4.ClH/c1-3-6-30(7-4-2)49-14-10-31-32(19-25(20-33(31)38(49)52)37-46-13-15-53-37)36(51)48-34(18-24-16-28(41)22-29(42)17-24)35(50)23-47-39(11-12-39)26-8-5-9-27(21-26)40(43,44)45;/h5,8-9,13,15-17,19-22,30,34-35,47,50H,3-4,6-7,10-12,14,18,23H2,1-2H3,(H,48,51);1H/t34-,35+;/m0./s1
